US05556864
29(a) 2-{2-[4-(1-Naphthyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 329 mg of 2-[4-(1-naphthyl)butyl]phenol (prepared as described in Preparation 16), 134 mg of potassium t-butoxide and 334 mg of epibromohydrin were reacted in 15 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 316 mg (yield 80%) of the title compound as a colorless oil.

reactant | 2-[4-(1-naphthyl)butyl]phenol | 329 mg | C1(=CC=CC2=CC=CC=C12)CCCCC1=C(C=CC=C1)O | C20H20O
reactant | potassium t-butoxide | 134 mg | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 334 mg | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(1-Naphthyl)butyl]phenoxymethyl}oxirane | 316 mg, yield 80% | C1(=CC=CC2=CC=CC=C12)CCCCC1=C(OCC2OC2)C=CC=C1 | C23H24O2
